simulator lang=spectre
global 0

ahdl_include "./dut/differential_buffer.va"

Vinp (vinp 0) vsource type=pwl wave=[0 0.25 15n 0.25 15.1n 0.65 30n 0.65 30.1n 0.35 60n 0.35]
Vinn (vinn 0) vsource type=pwl wave=[0 0.55 15n 0.55 15.1n 0.30 30n 0.30 30.1n 0.70 60n 0.70]

XDUT (vinp vinn voutp voutn) differential_buffer


tran tran stop=40n maxstep=25p
save vinp vinn voutp voutn
